US06730670B2
4-Methoxy-7-phenyl-benzo[b]thiophene-2-carboxylic acid
A suspension of 7-bromo-4-methoxy-benzo[b]thiophene-2-carboxylic acid methyl ester (5 g, 16.6 mmol) with bis(triphenylphosphine)palladium (II) chloride (350 mg, 0.496 mmol, 0.03 eq.) and K2CO3 (4.88 g, 49.8 mmol, 3 eq.) under argon in dioxane (40 ml) at 20° C. was stirred for 60 minutes. Phenylboronic acid (2.16 g, 17.4 mmol, 1.05 eq.) and 2N Na2CO3 (80 ml) was then added and the mixture heated to 100° C. overnight. After cooling, filtration and acidification to pH 1 with aq. HCl the product precipitated and was filtered off and dried under vacuum at 50° C. to afford the title compound (3.16 g, 67% yield) as a light brown solid. MS m/z=282.9 (M−H).

reactant | 7-bromo-4-methoxy-benzo[b]thiophene-2-carboxylic acid methyl ester | 16.6 mmol, 5 g | COC(=O)C1=CC2=C(S1)C(=CC=C2OC)Br | C11H9BrO3S
reactant | K2CO3 | 49.8 mmol, 4.88 g, 3 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | Phenylboronic acid | 17.4 mmol, 2.16 g, 1.05 eq. | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 2N, 80 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.496 mmol, 350 mg, 0.03 eq. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4-Methoxy-7-phenyl-benzo[b]thiophene-2-carboxylic acid | 3.16 g, 67% yield | COC1=CC=C(C=2SC(=CC21)C(=O)O)C2=CC=CC=C2 | C16H12O3S
